US04459403
To a solution of 1.0 g (0.0075 mole) of 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione in 50 ml of freshly distilled dry dioxane is added 0.77 g (0.0077 mole) of hydantoin. After stirring at room temperature for 17 hours, the solution is filtered, washed with chloroform and dried to give a yield of 0.6 g (41 percent) of 1-(3,6-dihydro-3-oxo-2H-1,2,4-oxadiazin-5-yl)-2,4-imidazolidinedione.

reactant | 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione | 0.0075 mole, 1.0 g | O1NC(NC(C1)=S)=O | C3H4N2O2S
reactant | hydantoin | 0.0077 mole, 0.77 g | N1C(=O)NC(=O)C1 | C3H4N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,6-dihydro-3-oxo-2H-1,2,4-oxadiazin-5-yl)-2,4-imidazolidinedione | yield of 0.6 g, 41 percent | O=C1NOCC(=N1)N1C(NC(C1)=O)=O | C6H6N4O4
